US07049317B2
(±)-trans-N-(2-{[2-(4-Chlorophenyl)ethyl]methylamino}-cyclopentyl)-4-methanesulfonylbenzamide hydrochloride
Using General Procedure D, as described in Example 2, Step A, the title compound was prepared from (±)-trans-N-[2-(4-chlorophenyl)ethyl]-N-methylcyclopentane-1,2-diamine and 4-methylsulfonylbenzoic acid MS m/z 435 (M+1)+.

reactant | (±)-trans-N-[2-(4-chlorophenyl)ethyl]-N-methylcyclopentane-1,2-diamine | ClC1=CC=C(C=C1)CCN([C@H]1[C@@H](CCC1)N)C | C14H21ClN2
reactant | 4-methylsulfonylbenzoic acid | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
product | (±)-trans-N-(2-{[2-(4-Chlorophenyl)ethyl]methylamino}-cyclopentyl)-4-methanesulfonylbenzamide hydrochloride | Cl.ClC1=CC=C(C=C1)CCN([C@H]1[C@@H](CCC1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)C | InChI=1S/C22H27ClN2O3S.ClH/c1-25(15-14-16-6-10-18(23)11-7-16)21-5-3-4-20(21)24-22(26)17-8-12-19(13-9-17)29(2,27)28;/h6-13,20-21H,3-5,14-15H2,1-2H3,(H,24,26);1H/t20-,21-;/m1./s1
